US08633319B2
Intermediate 13: 1,1-Dimethylethyl (3R)-3-({[7-(1-ethyl-1H-pyrazol-4-yl)-1,6-naphthyridin-5-yl]amino}methyl)-3-fluoro-1-piperidinecarboxylate
To a 2-5 mL microwave vial under nitrogen was added caesium carbonate (990 mg, 3.04 mmol) and 1-ethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (292 mg, 1.317 mmol) (Boron Molecular). 1,1-Dimethylethyl (3R)-3-{[(7-chloro-1,6-naphthyridin-5-yl)amino]methyl}-3-fluoro-1-piperidinecarboxylate (400 mg, 1.013 mmol) was dissolved in 1,4-dioxane (4 ml) and water (0.8 ml) and added in one aliquot. Nitrogen was bubbled through the resultant suspension for ˜2 min. Tetrakis(triphenylphosphine)palladium (0) (117 mg, 0.101 mmol) was then added in one portion and nitrogen bubbled through the yellow suspension for a further ˜1 min. The microwave vial was sealed and heated at 150° C. in a microwave reactor for 1 h. LCMS showed the reaction had gone to completion. The reaction was partitioned between water (20 ml) and ethyl acetate (20 ml). The aqueous layer was further extracted with ethyl acetate (2×20 ml) and the combined organics washed with brine (10 ml). The organics were dried (Na2SO4) and concentrated in vacuo.

reactant | caesium carbonate | 3.04 mmol, 990 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-ethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 1.317 mmol, 292 mg | C(C)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C11H19BN2O2
reactant | 1,1-Dimethylethyl (3R)-3-{[(7-chloro-1,6-naphthyridin-5-yl)amino]methyl}-3-fluoro-1-piperidinecarboxylate | 1.013 mmol, 400 mg | ClC1=NC(=C2C=CC=NC2=C1)NC[C@]1(CN(CCC1)C(=O)OC(C)(C)C)F | C19H24ClFN4O2
reactant | water | 0.8 ml | O | H2O
solvent | 1,4-dioxane | 4 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.101 mmol, 117 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1,1-Dimethylethyl (3R)-3-({[7-(1-ethyl-1H-pyrazol-4-yl)-1,6-naphthyridin-5-yl]amino}methyl)-3-fluoro-1-piperidinecarboxylate | C(C)N1N=CC(=C1)C1=NC(=C2C=CC=NC2=C1)NC[C@]1(CN(CCC1)C(=O)OC(C)(C)C)F | C24H31FN6O2
